US04269990
140.9 g (1.1 moles) of 1-acetyl-2-imidazolidinone (melting point 186°-187° C.) are introduced into 1,320 ml of POCl3 and 133.2 g (1 mole) of 4-amino-indan are added dropwise, with vigorous stirring, under conditions such that the internal temperature does not rise above 50° C. After completion of the addition, stirring is continued for 40 hours at 50° C. The excess POCl3 is then distilled off as completely as possible under reduced pressure on a rotary evaporator and the distillation residue is added to 5 l of ice water whilst keeping the temperature at ≤15° C. by further addition of ice. The pH is brought to 11 by means of 25% strength sodium hydroxide solution, whilst cooling with ice, the mixture is repeatedly extracted with chloroform, the combined chloroform phases are again washed with 1 liter of 2 N sodium hydroxide solution and are then washed neutral with water and dried over anhydrous sodium sulfate, and the chloroform is distilled off. The residue is recrystallized from isopropanol. 84.3 g of pure 1-acetyl-(4-indanylamino)-2-imidazoline of melting point 180.5°-182° C. are obtained.

reactant | 1-acetyl-2-imidazolidinone | 1.1 moles, 140.9 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
reactant | 4-amino-indan | 1 mole, 133.2 g | NC1=C2CCCC2=CC=C1 | C9H11N
solvent | POCl3 | 1,320 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-acetyl-(4-indanylamino)-2-imidazoline | 84.3 g | C(C)(=O)N1C(=NCC1)NC1=C2CCCC2=CC=C1 | C14H17N3O
